US05312830
STEP A: 4-(4'-chlorophenoxy)-nitrobenzene
A solution of 10.5 g (75.0 mmole) of 1-fluoro-4-nitrobenzene in 100 ml of dimethylsulfoxide and 9.64 g (75 mmole) of chlorophenol in 100 ml of DMSO was heated to 70° C. and maintained at this temperature for 4 hours. After allowing to cool to room temperature, 250 ml of water and then 250 ml of ethyl acetate were added slowly. The layers were separated and the organic layer was washed with 5×b 250 ml of water and 100 ml of sodium chloride, orange solid. Flash chromatography (CH2Cl2 eluent) yielded 18.34 g (98.0%) of the desired product as a yellow-orange solid.

reactant | 1-fluoro-4-nitrobenzene | 75.0 mmole, 10.5 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | chlorophenol | 75 mmole, 9.64 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | water | 250 ml | O | H2O
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 4-(4'-chlorophenoxy)-nitrobenzene | 18.34 g, 98.0% | ClC1=CC=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C12H8ClNO3
